US08871782B2
2-(2-Methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl isopropylcarbamate (1.89 g, 5.10 mmol) was dissolved in chloroform (41 mL). 3-Chloroperoxybenzoic acid (60% pure, 1.60 g, 5.56 mmol) was added in one portion. After 30 minutes the golden solution was diluted with ammonium hydroxide (41 mL), and p-toluenesulfonyl chloride (0.927 g, 4.86 mmol) was added. The reaction was stirred for 1.5 hours. The layers were separated and the aqueous fraction was extracted with dichloromethane. The organic fractions were combined, washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The solid residue was recrystallized from acetonitrile to provide 0.986 g of 4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl isopropylcarbamate as a granular, peach-colored solid, mp 144.0-146.0° C.

reactant | 2-(2-Methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl isopropylcarbamate | 5.10 mmol, 1.89 g | C(C)(C)NC(OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCC)CCOC)=O | C20H26N4O3
reactant | 3-Chloroperoxybenzoic acid | 5.56 mmol, 1.60 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | p-toluenesulfonyl chloride | 4.86 mmol, 0.927 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium hydroxide | 41 mL | [OH-].[NH4+]
solvent | chloroform | 41 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl isopropylcarbamate | 0.986 g | C(C)(C)NC(OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCC)CCOC)=O | C20H27N5O3
